US09260420B2
Synthesis of benzoic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethyl ester
Sodium hydride (55% oil) (0.15 g, 2.52 mmol) was suspended in tetrahydrofuran (THF) (20 ml) and, under a nitrogen atmosphere, 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-3,4-dihydro-1H-quinolin-2-one (1.0 g, 2.30 mmol) synthesized in the same manner as in WO2006/112464 (Example 11) was added, and the mixture was stirred with heating under reflux for 25 min. The mixture was cooled to 0° C., chloromethyl benzoate (0.627 g, 3.67 mmol) was added, and the mixture was stirred at room temperature for 2.5 hr. Under ice-cooling, aqueous ammonium chloride was added to the reaction mixture to discontinue the reaction, and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by moderate-pressure silica gel column chromatography (hexane:ethyl acetate=1:0 to 2:3) and concentrated under reduced pressure to give the title compound (yield 1.132 g, 86.55%) as a colorless amorphous solid.

reactant | Sodium hydride | 2.52 mmol, 0.15 g | [H-].[Na+]
reactant | 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-3,4-dihydro-1H-quinolin-2-one | 2.30 mmol, 1.0 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(NC1=C2)=O | C25H29N3O2S
reactant | chloromethyl benzoate | 3.67 mmol, 0.627 g | C(C1=CC=CC=C1)(=O)OCCl | C8H7ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | benzoic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethyl ester | yield 1.132 g, 86.55% | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(N(C1=C2)COC(C2=CC=CC=C2)=O)=O | C33H35N3O4S
